US04755215
2-[4-Amino-2-fluoro-5-(2-propynylamino)phenyl]-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione (0.59 g) was dissolved in acetic acid (1.9 ml), and sodium nitrite (0.13 g) was added thereto at a temperature of 10° to 15° C. After stirring for 10 minutes, the reaction mixture was admixed with water and extracted with ethyl acetate. The extract was washed with water and an aqueous solution of sodium bicarbonate, dried and concentrated. The residue was purified by silica gel thin layer chromatography using a mixture of ethyl acetate and hexane (1:2 by volume) as an eluent to give 2-[5-fluoro-1-(2-propynyl)benzotriazol-6-yl]-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione (0.07 g) as a resinous material.

reactant | 2-[4-Amino-2-fluoro-5-(2-propynylamino)phenyl]-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione | 0.59 g | NC1=CC(=C(C=C1NCC#C)N1C(C=2CCCCC2C1=O)=O)F | C17H16FN3O2
reactant | sodium nitrite | 0.13 g | N(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | acetic acid | 1.9 ml | C(C)(=O)O | C2H4O2
product | 2-[5-fluoro-1-(2-propynyl)benzotriazol-6-yl]-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione | 0.07 g | FC1=CC2=C(N(N=N2)CC#C)C=C1N1C(C=2CCCCC2C1=O)=O | C17H13FN4O2
